US04634783
To a solution of 3.2 g of 6-(benzyloxycarbonylaminoiminomethyl)-2-naphthol in 40 ml of ethyl acetate, was added 1.2 g of triethylamine. To the resulting solution, while cooling in ice and stirring, was added 5-nitrofuran-2-carboxylic acid chloride. Thereafter the mixture was stirred overnight at room temperature. The precipitate was collected by filtration and washed with water to obtain 4.4 g of 6-(benzyloxycarbonylaminoiminomethyl)-2-naphthyl 5-nitrofuran-2-carboxylate, m.p.: 109°-112° C.

reactant | 6-(benzyloxycarbonylaminoiminomethyl)-2-naphthol | 3.2 g | C(C1=CC=CC=C1)OC(=O)NN=CC=1C=C2C=CC(=CC2=CC1)O | C19H16N2O3
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | 5-nitrofuran-2-carboxylic acid chloride | [N+](=O)([O-])C1=CC=C(O1)C(=O)Cl | C5H2ClNO4
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 6-(benzyloxycarbonylaminoiminomethyl)-2-naphthyl 5-nitrofuran-2-carboxylate | 4.4 g | [N+](=O)([O-])C1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C=NNC(=O)OCC1=CC=CC=C1 | C24H17N3O7
